US06743924B2
4-Chloro-1-(4-methoxyphenyl)-1-butanone (5 g, 23.5 mmol) was dissolved in tetrahydrofuran (50 ml). 10% Palladium carbon (water-containing product, 500 mg) was added and the mixture was subjected to catalytic reduction under hydrogen pressure (0.8 MPa, 50° C. for 3 h). The catalyst was filtered off and the filtrate was concentrated under reduced pressure to give 1-(4-chlorobutyl)-4-methoxybenzene (4.6 g, yield 99%).

reactant | 4-Chloro-1-(4-methoxyphenyl)-1-butanone | 23.5 mmol, 5 g | ClCCCC(=O)C1=CC=C(C=C1)OC | C11H13ClO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | Palladium carbon | 500 mg | [C].[Pd]
product | 1-(4-chlorobutyl)-4-methoxybenzene | 4.6 g, yield 99% | ClCCCCC1=CC=C(C=C1)OC | C11H15ClO
